US07737166B2
N-(2-Bromo-5-cyano-3,3′-dihydroxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide (I-16)
A dichloromethane (18 ml) solution of N-(3′-benzyloxy-2-bromo-5-cyano-3-methoxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide (I-13) (620 mg, 1.22 mmol) was cooled at −78° C., a dichloromethane solution of 1 N tribromoborane (3.67 ml, 3.67 mmol) was dropwise added, followed by stirring at −78° C. for 20 minutes. Afterwards, this was heated up to −12° C. and stirred for 1 hour, then heated up to 0° C. and stirred for 30 minutes. The reaction liquid was put into cold water (50 ml), saturated brine (50 ml) was added, the intended product was extracted with ethyl acetate (70 ml×2). The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) to obtain the entitled compound (457 mg, 96%) as a yellow white semi-solid.

reactant | dichloromethane | 18 ml | ClCCl | CH2Cl2
reactant | N-(3′-benzyloxy-2-bromo-5-cyano-3-methoxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide | 1.22 mmol, 620 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C(=C(C(=C1C)C#N)NC(C(C)(C)C)=O)OC)Br | C27H27BrN2O3
reactant | tribromoborane | 3.67 mmol, 1 N, 3.67 ml | BrB(Br)Br | BBr3
reactant | water | 50 ml | O | H2O
solvent | brine | 50 ml | [Cl-].[Na+].O
product | N-(2-Bromo-5-cyano-3,3′-dihydroxy-6-methylbiphenyl-4-yl)-2,2-dimethylpropionamide | 457 mg, 96% | BrC1=C(C(=C(C(=C1O)NC(C(C)(C)C)=O)C#N)C)C1=CC(=CC=C1)O | C19H19BrN2O3
